### PR TITLE
feat: offset constraints support for the `grind` tactic

### PR DESCRIPTION
**Pull request by leodemoura**
This PR implements support for offset constraints in the `grind` tactic. Several features are still missing, such as constraint propagation and support for offset equalities, but `grind` can already solve examples like the following:

```lean
example (a b c : Nat) : a ≤ b → b + 2 ≤ c → a + 1 ≤ c := by
  grind
example (a b c : Nat) : a ≤ b → b ≤ c → a ≤ c := by
  grind
example (a b c : Nat) : a + 1 ≤ b → b + 1 ≤ c → a + 2 ≤ c := by
  grind
example (a b c : Nat) : a + 1 ≤ b → b + 1 ≤ c → a + 1 ≤ c := by
  grind
example (a b c : Nat) : a + 1 ≤ b → b ≤ c + 2 → a ≤ c + 1 := by
  grind
example (a b c : Nat) : a + 2 ≤ b → b ≤ c + 2 → a ≤ c := by
  grind
```

### CODE REVIEW

File: src/Lean/Meta/Tactic/Grind/Arith/Offset.lean [hunk 1]
```diff
@@ -0,0 +1,225 @@
...
+This module implements a decision procedure for offset constraints of the form:
+```
+x + k ≤ y
+x ≤ y + k
+```
+where `k` is a numeral.
+Each constraint is represented as an edge in a weighted graph.
+The constraint `x ≤ y + k` is represented as a negative edge.
+The shortest path between two nodes in the graph corresponds to an implied inequality.
+nWhen adding a new edge, the state is considered unsatisfiable if the new edge creates a negative cycle.
```
Comment (kim-em) [inline src/Lean/Meta/Tactic/Grind/Arith/Offset.lean:24]:
```suggestion
When adding a new edge, the state is considered unsatisfiable if the new edge creates a negative cycle.
```
